*---------- DMG4435SSS Spice Model ----------
.SUBCKT DMG4435SSS 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  PMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.01231 
RS 30 3 0.001 
RG 20 2 6.83 
CGS 2 3 1.465E-009 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1  VFB 1 
CGD 13 14 1.556E-009 
R1 13 30 1 
D1 13 12  DLIM 
DDG 14 15  DCGD 
R2 12 15 1 
D2 30 15  DLIM 
DSD 10 3  DSUB 
.MODEL PMOS PMOS  LEVEL = 3  U0 = 164.9  VMAX = 1.945E+005  KP = 39.94 
+ ETA = 0.005129  TOX = 6E-008  NSUB = 1.104E+016  KAPPA = 3.689  VTO = -2.072 
.MODEL DCGD D  CJO = 7.47E-010  VJ = 0.518  M = 0.3662 
.MODEL DSUB D  IS = 2.364E-010  N = 1.296  RS = 0.007836  BV = 33  
+CJO = 9.148E-011  VJ = 0.644  M = 0.663 
.MODEL DLIM D  IS = 0.0001 
.ENDS
*Diodes DMG4435SSS Spice Model v1.0 Last Revised 2010/9/14