.subckt buck_netlist_simple input_v gate_drive output_v N002
XX1 input_v gate_drive output_v N002
.ends buck_netlist_simple



******************************************************************************************************************
* STEPS TO GET FROM LTSPICE NETLIST TO THIS NGSPICE NETLIST:
* Delete everything that's not a subcircuit (including end of file top-level statements such as .tran, .end);
* This file is only a collection of subcircuits, not a complete SPICE netlist.
* Add parameters to each subckt line (just copy from any instantiation of said subcircuit; do not include "params:")
* Change unicode 'mu' to 'u'
* Replace any dash in any subcircuit name with an underscore 
* Add top subcircuit ngspice_top using instantiation line for XX1 in original top-level netlist (see text before this note)
*	It is important to include the XX1 instantiation as above otherwise the models below do not get connected
******************************************************************************************************************

.subckt buck_netlist_simple input_v gate_drive output_v N002
*input cap
R1 input_v P001 20m
C1 P001 0 10u
*buck switch
S1 N002 input_v gate_drive 0 myswitch
*body diode
D1 N002 input_v 1N5819
*output L
R3 N002 N001 20m
L1 N001 output_v 150u
*flyback diode
D2 0 N002 1N5819
*output cap
C2 N003 0 22u
R2 output_v N003 100m
*Load
R4 output_v 0 5

* had to hard code the duty cycle because cannot yet pass time values to/from python code
V2 gate_drive 0 PULSE(0 10 0 1n 1n 1.25u 2.5u 200)

.model 1N5819 D(Is=31.7u Rs=.051 N=1.373 Cjo=110p M=.35 Eg=.69 Xti=2 Iave=1 Vpk=40 mfg=OnSemi type=Schottky)
.model myswitch SW(Ron=0.002 Roff=1Meg Vt=3.0)

.ends buck_netlist_simple


