.subckt buck_netlist_simple_sw input_v gate_drive output_v N005 nch
XX1 input_v gate_drive output_v N005 nch
.ends buck_netlist_simple_sw


******************************************************************************************************************
* STEPS TO GET FROM LTSPICE NETLIST TO THIS NGSPICE NETLIST:
* Delete everything that's not a subcircuit (including end of file top-level statements such as .tran, .end);
* This file is only a collection of subcircuits, not a complete SPICE netlist.
* Add parameters to each subckt line (just copy from any instantiation of said subcircuit; do not include "params:")
* Change unicode 'mu' to 'u'
* Replace any dash in any subcircuit name with an underscore 
* Add top subcircuit ngspice_top using instantiation line for XX1 in original top-level netlist (see text before this note)
*	It is important to include the XX1 instantiation as above otherwise the models below do not get connected
******************************************************************************************************************

.subckt buck_netlist_simple_sw input_v gate_drive output_v N005 nch

*buck switch
S1 output_v input_v gate_drive 0 myswitch


R3 output_v esr 0.02
C2 esr 0 22u

* had to hard code the duty cycle because cannot yet pass time values to/from python code
V2 gate_drive 0 PULSE(0 10 0 1n 1n 1.25u 2.5u 200)


*R1 output_v input_v 10k
R2 output_v 0 5


.model myswitch SW(Ron=0.002 Roff=1Meg Vt=3.0)
.model 4007PMOS PMOS(LEVEL=2 KP=1.0E-3 VTO=-1)
*.model FDS6675 VDMOS(pchan Rg=3 Rd=8m Rs=6m Vto=-1 Kp=70 Cgdmax=1.2n Cgdmin=.15n Cgs=2n Cjo=.6n Is=60p Rb=10m Ron=20m Qg=30n)

.ends buck_netlist_simple_sw

